US07652138B2
I.14.3: methyl 3,3′-dichloro-4,4′-difluorobenzilate
17.07 g (0.0512 mol) of 3,3′-dichloro-4,4′-difluorobenzilic acid, 14.10 g (0.0926 mol) of DBU, and 26.29 g (0.1852 mol) of methyl iodide are reacted in 200 ml acetonitrile analogously to step I.10.3. Yield: 6.77 g (38% of theory).

reactant | 3,3′-dichloro-4,4′-difluorobenzilic acid | 0.0512 mol, 17.07 g | ClC=1C=C(C(C(=O)O)(O)C2=CC(=C(C=C2)F)Cl)C=CC1F | C14H8Cl2F2O3
reactant | DBU | 0.0926 mol, 14.10 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl iodide | 0.1852 mol, 26.29 g | CI | CH3I
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | methyl 3,3′-dichloro-4,4′-difluorobenzilate | ClC=1C=C(C(C(=O)OC)(O)C2=CC(=C(C=C2)F)Cl)C=CC1F | C15H10Cl2F2O3
